resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.012127
R2 0 n2 1.000252
R3 0 n4 0.984198
R4 n1 n3 0.983605
R5 n1 n5 1.019188
R6 n2 n3 0.998508
R7 n2 n6 0.987264
R8 n3 n7 1.013624
R9 n4 n5 0.993087
R10 n4 n6 1.008048
R11 n5 n7 1.010509
R12 n6 n7 1.003624
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
